US07763608B2
5-chloro-N-((1-(4-(3-(2-hydroxyethoxy)-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (59)
A mixture of 5-chloro-N-((1-(4-(3-hydroxy-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (30 mg, 0.070 mmol), 2-bromoethanol (0.020 mL, 0.28 mmol) and Cs2CO3 (90 mg, 0.28 mmol) in DMSO (1 mL) was stirred at 60° C. for 1 h. It was then purified by HPLC to give the titled compound (5 mg). MS 471.0 and 473.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-(3-hydroxy-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 0.070 mmol, 30 mg | ClC1=CC=C(S1)C(=O)NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C(=CC=C1)O)=O | C20H15ClN4O3S
reactant | 2-bromoethanol | 0.28 mmol, 0.020 mL | BrCCO | C2H5BrO
reactant | Cs2CO3 | 0.28 mmol, 90 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-chloro-N-((1-(4-(3-(2-hydroxyethoxy)-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 5 mg | ClC1=CC=C(S1)C(=O)NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C(=CC=C1)OCCO)=O | C22H19ClN4O4S
